US09062066B2
The synthesis of 3-(4-methoxybenzyloxy)aniline
Fe (5.6 g, 100.28 mmol) was mixed with methanol:H2O (15 ml:3 ml) and refluxed for 30 minutes. After the temperature is dropped to room temperature, 1-(4-methoxybenzyloxy)-3-nitrobenzene (1.3 g, 5.01 mmol) dissolved in 6 ml of methanol:H2O (5:1) was added and then refluxed for 15 hours. Fe was removed using cellite, then the reaction mixture was washed using methanol and concentrated under vacuum to remove the solvent. After extraction with 100 ml of saturated ammonium chloride+150 ml of dichloromethane, the organic layer was washed with water. The organic solvent was concentrated under vacuum to obtain the title compound (1.14 g, 99%).

reactant | methanol | CO | CH4O
reactant | H2O | 15 ml | O | H2O
reactant | 1-(4-methoxybenzyloxy)-3-nitrobenzene | 5.01 mmol, 1.3 g | COC1=CC=C(COC2=CC(=CC=C2)[N+](=O)[O-])C=C1 | C14H13NO4
solvent | methanol H2O | 6 ml | CO.O
catalyst | Fe | 100.28 mmol, 5.6 g | [Fe] | Fe
product | 3-(4-methoxybenzyloxy)aniline | 1.14 g, 99% | COC1=CC=C(COC=2C=C(N)C=CC2)C=C1 | C14H15NO2
